US07399863B2
a. Preparation of [2-(4-aminophenyl)ethyl]carbamic acid tert-butyl ester
To a suspension of 4-aminophenethylamine(65.1 g, 1.0 equiv) in dichloromethane (1.5 L) at 0° C. was added di-tert-butyl dicarbonate (99.2 g, 0.95 equiv) in dichloromethane (300 mL) dropwise. The solution was slowly warmed to room temperature and stirred for 18 hours. Water (200 mL) was added, solvents were evaporated under reduced pressure to a volume of approximately 1 L, the aqueous and organic layers were separated, and the organic layer was washed with water (200 mL) followed by saturated aqueous sodium chloride (100 mL). The organic layer was dried over anhydrous sodium sulfate (40 g). The solids were filtered and the filtrate concentrated to give crude title intermediate (100.7 g) which was suspended in a mixture of hexanes (745 mL) and ethyl acetate (150 mL). The slurry was heated until a clear solution was obtained and then the solution was slowly cooled to room temperature. The resulting cystals were filtered, washed with 10% ethyl acetate/hexanes solution (100 mL) and dried under vacuum to provide the title intermediate (55.1 g, 48% yield).

reactant | 4-aminophenethylamine | 65.1 g, 1.0 equiv | NC1=CC=C(CCN)C=C1 | C8H12N2
reactant | di-tert-butyl dicarbonate | 99.2 g, 0.95 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 200 mL | O | H2O
solvent | dichloromethane | 1.5 L | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | [2-(4-aminophenyl)ethyl]carbamic acid tert-butyl ester | 55.1 g, 48% yield | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)N)=O | C13H20N2O2
